US05143919
To a solution of 3-amino-4-(2-chlorophenyl)-6,7-dihydro-5H-cyclopenta[1',2':5,4]thieno[2,3-b]pyridine (150 mg) and N,N-dimethylaniline (0.065 ml) in dichloromethane (3 ml) was added dropwise 2,4-difluorobenzoyl chloride (0.07 ml) with ice-cooling. The mixture was stirred for 10 minutes with ice-cooling and then stirred at room temperature for 2 hours. Then, the mixture was washed in turn with water, aqueous saturated NaHCO3 solution and water, and dried over MgSO4The solvent was distilled off to obtain 4-(2-chlorophenyl)-3-(2,4-difluorobenzoylamino)-6,7 -dihydro-5H-cyclopenta[1',2':5,4]thieno[2,3-b]pyridine (206 mg, 93.6%) as crystals. The crystals were recrystallized from acetone to obtain colorless prisms, mp: 219°-220° C.

reactant | 3-amino-4-(2-chlorophenyl)-6,7-dihydro-5H-cyclopenta[1',2':5,4]thieno[2,3-b]pyridine | 150 mg | NC=1C(=C2C(=NC1)SC1=C2CCC1)C1=C(C=CC=C1)Cl | C16H13ClN2S
reactant | N,N-dimethylaniline | 0.065 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,4-difluorobenzoyl chloride | 0.07 ml | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-(2-chlorophenyl)-3-(2,4-difluorobenzoylamino)-6,7 -dihydro-5H-cyclopenta[1',2':5,4]thieno[2,3-b]pyridine | 206 mg, 93.6% | ClC1=C(C=CC=C1)C1=C2C(=NC=C1NC(C1=C(C=C(C=C1)F)F)=O)SC1=C2CCC1 | C23H15ClF2N2OS
